US07790737B2
A solution of 2-chloro-N-methoxy-N,6-dimethylpyridine-3-carboxyamide (1.30 g, 5.83 mmol) in dichloromethane (15 mL) was added with diisobutylaluminum hydride (0.99 M solution in toluene, 12 mL, 11.66 mmol) at −78° C., and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was added with 2 M aqueous sodium hydroxide, and the mixture was stirred at room temperature for 30 minutes, and then extracted with ethyl acetate. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain 2-chloro-6-methylnicotinaldehyde (828 mg, 91%) as pale yellow oil.

reactant | 2-chloro-N-methoxy-N,6-dimethylpyridine-3-carboxyamide | 5.83 mmol, 1.30 g | ClC1=NC(=CC=C1CC(=O)N(C)OC)C | C10H13ClN2O2
reactant | diisobutylaluminum hydride | 11.66 mmol, 0.99 M, 12 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-chloro-6-methylnicotinaldehyde | 828 mg, 91% | ClC1=C(C=O)C=CC(=N1)C | C7H6ClNO
